US09079866B2
1-(3-((4′-(2-Aminopyrimidin-5-yl)-3′-fluoro-[1,1′-biphenyl]-2-yl)sulfonyl)propyl)-1H-benzo[d]imidazol-2(3H)-one
The title compound was prepared using analogous conditions to those described in Example 6 utilizing 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrimidin-2-amine and 1-(3-((2-bromophenyl)sulfonyl)propyl)-1H-benzo[d]imidazol-2(3H)-one. MS (ESI): mass calcd. for C26H22FN5O3S, 503.14; m/z found, 503.9 [M+H]+. 1H NMR (500 MHz, DMSO-d6) δ 10.85 (s, 1H), 8.45 (s, 2H), 8.12-8.03 (d, J=7.8, 1H), 7.83-7.75 (m, 1H), 7.75-7.66 (m, 1H), 7.45-7.30 (m, 2H), 7.27-7.19 (d, J=11.5, 1H), 7.09-6.88 (m, 6H), 3.79-3.72 (t, J=6.5, 2H), 2.97-2.88 (dd, J=9.7, 6.3, 2H), 1.79-1.68 (m, 2H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrimidin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1C=NC(=NC1)N | C16H19BFN3O2
reactant | 1-(3-((2-bromophenyl)sulfonyl)propyl)-1H-benzo[d]imidazol-2(3H)-one | BrC1=C(C=CC=C1)S(=O)(=O)CCCN1C(NC2=C1C=CC=C2)=O | C16H15BrN2O3S
product | 1-(3-((4′-(2-Aminopyrimidin-5-yl)-3′-fluoro-[1,1′-biphenyl]-2-yl)sulfonyl)propyl)-1H-benzo[d]imidazol-2(3H)-one | NC1=NC=C(C=N1)C1=C(C=C(C=C1)C1=C(C=CC=C1)S(=O)(=O)CCCN1C(NC2=C1C=CC=C2)=O)F | C26H22FN5O3S
